US07820821B2
To a solution of 6-nitroindazole (2 mmol) in DCE (5 mL), sulfuryl chloride (10 mmol) was added and the resulting mixture was heated 80° C. for 3-5 h. The reaction mixture was concentrated, added with 5% aqueous Na2CO3 solution (20 mL) and extracted with EtOAc (2×15 mL). The combined organics were then washed with water (20 mL) and brine (20 mL) and dried over anhydrous Na2SO4. Removal of volatiles afforded 3-chloro-6-nitro-1H-indazole as a yellow solid.

reactant | 6-nitroindazole | 2 mmol | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | sulfuryl chloride | 10 mmol | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 3-chloro-6-nitro-1H-indazole | ClC1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C7H4ClN3O2
